US08735412B2
1-Ethylsulfanyl-4-nitrobenzene
16.56 g (106.72 mmol) of 4-nitrothiophenol was added, while cooling with water, to a solution of 4.27 g (106.76 mmol) sodium hydroxide in 320 ml ethanol and it was stirred for 15 minutes at room temperature. Then, while cooling with water, 8.63 ml (106.79 mmol) of ethyl iodide was added and the mixture was stirred overnight at room temperature. The mixture was added to saturated sodium chloride solution and was extracted with ethyl acetate (2×). The combined organic phases were dried (Na2SO4), filtered and concentrated by evaporation. Then it was dissolved in DCM and filtered again and evaporated to dryness. 16.86 g (92.02 mmol) of the raw product was obtained.

reactant | 4-nitrothiophenol | 106.72 mmol, 16.56 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | sodium hydroxide | 106.76 mmol, 4.27 g | [OH-].[Na+]
reactant | ethyl iodide | 106.79 mmol, 8.63 ml | C(C)I | C2H5I
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | 320 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-Ethylsulfanyl-4-nitrobenzene | 92.02 mmol, 16.86 g | C(C)SC1=CC=C(C=C1)[N+](=O)[O-] | C8H9NO2S
